US06248765B1
4-Fluorophenyl 4-(3-(1H-imidazol-4-yl)propyloxy)phenyl sulphone
5 mmol of sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate and 10 mmol of bis(4-fluorophenyl) sulphone are treated as described in Example 61 (method A).

reactant | sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | bis(4-fluorophenyl) sulphone | 10 mmol | FC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)F | C12H8F2O2S
product | 4-Fluorophenyl 4-(3-(1H-imidazol-4-yl)propyloxy)phenyl sulphone | N1C=NC(=C1)CCCOC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)F | C18H17FN2O3S
